US04273927
(±)-1,2,3,4-Tetrahydro-2-quinolinecarboxylic acid hydrochloride (26 g) was dissolved in a cold solution of sodium hydroxide (9.6 g) and water (125 ml). The solution was cooled with an ice bath and under vigorous stirring, a solution of sodium hydroxide (4.8 g) and water (60 ml), and chloroacetyl chloride (9.9 ml) were added dropwise. The mixture was stirred for 3 hours at room temperature and then potassium thiobenzoate (21 g) in water (120 ml) was added. This mixture was stirred at room temperature for 18 hours, cooled in an ice bath to 0°, and then acidified with concentrated hydrochloric acid. The product was extracted with chloroform and the extract dried over magnesium sulfate and concentrated to yield (±)-1-(2-benzoylthio-1-oxoethyl)-1,2,3,4-tetrahydro-2-quinolinecarboxylic acid; yield 20 g, m.p. 164°-168°.

reactant | (±)-1,2,3,4-Tetrahydro-2-quinolinecarboxylic acid hydrochloride | 26 g | Cl.N1C(CCC2=CC=CC=C12)C(=O)O
reactant | chloroacetyl chloride | 9.9 ml | ClCC(=O)Cl | C2H2Cl2O
reactant | potassium thiobenzoate | 21 g | C(C1=CC=CC=C1)(=S)[O-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 9.6 g | [OH-].[Na+]
solvent | water | 125 ml | O | H2O
solvent | water | 120 ml | O | H2O
solvent | water | 60 ml | O | H2O
solvent | sodium hydroxide | 4.8 g | [OH-].[Na+]
product | (±)-1-(2-benzoylthio-1-oxoethyl)-1,2,3,4-tetrahydro-2-quinolinecarboxylic acid | C(C1=CC=CC=C1)(=O)SCC(=O)N1C(CCC2=CC=CC=C12)C(=O)O | C19H17NO4S
